US06635771B2
A solution of 1-benzhydryl-6-chloro-1H-indole-2-carbaldehyde (0.5M, 1 equiv.) and NH4OAc (1 equiv.) in nitromethane was heated at 95° C. for 70 min. The mixture was diluted with EtOAc, washed with water, and dried. Evaporation of the volatiles, followed by trituration with ether/hexane produced 1-Benzhydryl-6-chloro-2-(2-nitro-vinyl)-1H-indole in 48% yield.

reactant | 1-benzhydryl-6-chloro-1H-indole-2-carbaldehyde | 0.5M, 1 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC=C(C=C12)Cl)C=O | C22H16ClNO
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Benzhydryl-6-chloro-2-(2-nitro-vinyl)-1H-indole | 48% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC=C(C=C12)Cl)C=C[N+](=O)[O-] | C23H17ClN2O2
